US07326791B2
rac.-N-[1-(5-fluoro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
A solution of 0.10 g (0.43 mmol) of 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, 0.184 g (0.450 mmol) of 1-(5-fluoro-1H-benzimidazol-2-yl)ethylamine×2(CF3COOH) (prepared analogously to Methods 1a, 10b, 10c) and 0.35 mL (2.50 mmol) of triethylamine in 3 mL of dimethylsulfoxide is stirred at ambient temperature and combined with 0.193 g (0.600 mmol) of TBTU. The reaction mixture is stirred for 1 hour at ambient temperature, then diluted with ethyl acetate and washed successively with 10% aqueous citric acid, twice with 2 molar sodium hydroxide solution and with water. The organic phase is dried with sodium sulfate and concentrated. The crude product is taken up in ethyl acetate, precipitated with tert-butylmethylether, and dried. Yield: 83 mg (49% of theory); Rf value: 0.34 (silica gel; ethyl acetate/ethanol=9:1); C22H23FN4O2 (394.45); mass spectrum: (M+H)+=395

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | 0.43 mmol, 0.10 g | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | 1-(5-fluoro-1H-benzimidazol-2-yl)ethylamine | 0.450 mmol, 0.184 g | FC1=CC2=C(NC(=N2)C(C)N)C=C1 | C9H10FN3
reactant | triethylamine | 2.50 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.600 mmol, 0.193 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac.-N-[1-(5-fluoro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | FC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C22H23FN4O2
